US09353121B2
A mixture of anisaldehyde (350 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 1,3-dimethyl-1H-pyrazol-5(4H)-one (321 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 24 h and the crude material was purified by column chromatography (25% ethyl acetate in hexanes to 100% ethyl acetate). The yellow solid was washed with ethanol and hexanes, and re-crystallized from ethanol to give 6-amino-4-(4-methoxyphenyl)-1,3-dimethyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (370 mg, 1.25 mmol, 44%) as a white solid. 1H-NMR (400 MHz) CDCl3: 7.12-7.10 (d, 2H), 6.85-6.83 (d, 2H), 4.61 (s, 2H), 4.55 (s, 1H), 3.79 (s, 3H), 3.69 (s, 3H), 1.80 (s, 3H) 13C-NMR (100 MHz) CDCl3: 158.8, 157.9, 144.5, 144.4, 134.5, 128.8, 119.3, 114.0, 96.4, 64.2, 55.2, 36.7, 33.7, 12.7; LC/MS-MS: 297.0→231.2 m/z; GS1 and GS2 at 30, DP=61, CE=27, CXP=16, tR=3.71 min.

reactant | anisaldehyde | 2.87 mmol, 350 μL | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 321 mg | CN1N=C(CC1=O)C | C5H8N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-4-(4-methoxyphenyl)-1,3-dimethyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 1.25 mmol, 370 mg, 44% | NC1=C(C(C2=C(N(N=C2C)C)O1)C1=CC=C(C=C1)OC)C#N | C16H16N4O2
